US04973588
To a solution of 0.25 g (1.0 millimole) of 2-(N,N-dimethylcarbamoylthio)-4-phenylimidazole in 10 ml of N, N-dimethylformamide was added 0.04 g (1.0 millimole) of sodium hydride, and the mixture was stirred at room temperature for 1 hour. Then, 0.16 g (1.0 millimole) of 2-chloro-5-nitropyridine was added to the mixture, and the mixture was stirred at room temperature for 3 hours. The mixture was concentrated under reduced pressure and washed with water and ethyl acetate to obtain 0.27 g (yield=73%) of intended 2-(N,N-dimethylcarbamoylthio)-1-(5-nitropyridinyl)-4-phenylimidazole (compound No. 28) in the form of a yellow powder.

reactant | 2-(N,N-dimethylcarbamoylthio)-4-phenylimidazole | 1.0 millimole, 0.25 g | CN(C(=O)SC=1NC=C(N1)C1=CC=CC=C1)C | C12H13N3OS
reactant | sodium hydride | 1.0 millimole, 0.04 g | [H-].[Na+]
reactant | 2-chloro-5-nitropyridine | 1.0 millimole, 0.16 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | N, N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(N,N-dimethylcarbamoylthio)-1-(5-nitropyridinyl)-4-phenylimidazole | 0.27 g, yield=73% | CN(C(=O)SC=1N(C=C(N1)C1=CC=CC=C1)C1=NC=C(C=C1)[N+](=O)[O-])C | C17H15N5O3S
